US07202367B2
Preparation of bis(o-tolyl) Ether
Example 3.1 was repeated, replacing the phenol with 206 μl of o-cresol (2 mmoles) and the iodobenzene with 383 μl of 2-iodotoluene (3 mmoles), the acetonitrile with DMF, and with the nucleophile and the arylation agent being added at the same time as the solvent.

reactant | o-cresol | 2 mmoles, 206 μl | C1(=CC=CC=C1O)C | C7H8O
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
reactant | 2-iodotoluene | 3 mmoles, 383 μl | IC1=C(C=CC=C1)C | C7H7I
reactant | acetonitrile | C(C)#N | C2H3N
solvent | DMF | CN(C)C=O | C3H7NO
product | bis(o-tolyl) Ether | C=1(C(=CC=CC1)OC1=C(C=CC=C1)C)C | C14H14O
